US05559230
To a solution of 1-[4-(3-hydroxybenzoylamino)benzoyl]-1,2,3,4-tetrahydroquinoline (0.4 g) in acetone (5 ml) are added potassium carbonate (0.22 g) and ethyl iodide (0.34 g), and the mixture is refluxed for 5 hours. Then, acetone is distilled off under reduced pressure and water is added to the residue. The precipitated crystal is collected by filtration, and recrystallized from methanol to give 1-[4-(3-ethoxybenzoylamino)benzoyl]-1,2,3,4-tetrahydroquinoline (0.36 g) as white powder, m.p. 170.5°-171.5° C.

reactant | 1-[4-(3-hydroxybenzoylamino)benzoyl]-1,2,3,4-tetrahydroquinoline | 0.4 g | OC=1C=C(C(=O)NC2=CC=C(C(=O)N3CCCC4=CC=CC=C34)C=C2)C=CC1 | C23H20N2O3
reactant | potassium carbonate | 0.22 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 0.34 g | C(C)I | C2H5I
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | 1-[4-(3-ethoxybenzoylamino)benzoyl]-1,2,3,4-tetrahydroquinoline | 0.36 g | C(C)OC=1C=C(C(=O)NC2=CC=C(C(=O)N3CCCC4=CC=CC=C34)C=C2)C=CC1 | C25H24N2O3
